US07345178B2
(4-Methoxy-benzyl)-[3-(3-morpholin-4-ylmethyl-imidazo[2,1-b]thiazol-6-yl)-pyridin-2-yl]-amine (100 mg, 0.23 mmol) was mixed with 2 mL of CH2Cl2 along with triethylsilane (0.11 mL, 2 eq). Trifluoroacetic acid (1 mL) was added and the reaction mixture was stirred at room temperature for 18 hours. The following day, the reaction mixture was concentrated. The resulting residue was triturated with Et2O to afford essentially quantitative yield of 3-(3-morpholin-4-ylmethyl-imidazo[2,1-b]thiazol-6-yl)-pyridin-2-ylamine as the TFA salt.

reactant | (4-Methoxy-benzyl)-[3-(3-morpholin-4-ylmethyl-imidazo[2,1-b]thiazol-6-yl)-pyridin-2-yl]-amine | 0.23 mmol, 100 mg | COC1=CC=C(CNC2=NC=CC=C2C=2N=C3SC=C(N3C2)CN2CCOCC2)C=C1 | C23H25N5O2S
reactant | triethylsilane | 0.11 mL, 2 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-morpholin-4-ylmethyl-imidazo[2,1-b]thiazol-6-yl)-pyridin-2-ylamine | quantitative yield | N1(CCOCC1)CC=1N2C(SC1)=NC(=C2)C=2C(=NC=CC2)N | C15H17N5OS
